data/rdb19/train.csv
rxn,smiles,ea
5258,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:21]([C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14],15.26914222270716
3933,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])[H:7].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17],59.72557998681441
1087,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],64.41300313000102
3007,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([H:11])([H:12])[H:26])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],73.63750505098142
2291,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([C:9]([C:10]([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19].[H:5][C:11]([H:22])([H:23])[H:24],74.37579762726091
5384,[C:17]([C:18]([C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5][c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:13][C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([H:28])[H:29])([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32],27.956893024849705
1722,[C:15](=[C:16]([N+:17](=[C:18]([O-:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])[H:5])=[C:6]([O:7][H:23])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][O:19][C:18](=[N:17][C:16](=[C:15]([H:20])[H:21])[H:22])[H:24],24.77247468719725
5566,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:1](=[C:2]([N:3]([C:4]([O:5])([H:10])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7],21.91729505854892
648,[C:19]([O:20][O:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[O:21][O:20][C:19]([H:22])([H:23])[H:24].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],68.2176445852383
3947,[O:11][H:12].[O:1]([C:2]([C:3]([S:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[C:3]([S:4][H:10])([H:8])[H:9].[O:1]([C:2]([H:6])([H:7])[O:11][H:12])[H:5],40.473209421674255
4235,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],31.98559042281704
3703,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:24]1([H:38])[C:23]([H:37])[C:22]([H:36])=[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]1[H:39])([H:10])[H:11])([H:7])([H:8])[H:9],22.02823847613763
